US04053601
6-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-hydrazinopyridazine
A stirred mixture of 6-chloro-3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]pyridazine and hydrazine hydrate in ethanol was heated under reflux for 3 hours. Evaporation of the reaction mixture under reduced pressure gave the title compound.

reactant | 6-chloro-3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]pyridazine | ClC1=CC=C(N=N1)C1=C(C=C(C=C1)OC)OCC(CNC(C)(C)C)O | C18H24ClN3O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 6-[2-(3-t-Butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-3-hydrazinopyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C1=CC=C(N=N1)NN)O | C18H27N5O3
